US07205295B2
Intermediate 69: [Methyl-(2-nitrophenyl)-amino]acetic acid tert-butylester.
In acetonitrile (80 mL) was stirred sarcosine t-butyl ester•hydrochloride (10.1 g, 55.5 mmol) and triethylamine (6.57 g, 65 mmol). To this was added 2-fluoronitrobenzene (5.66 g, 40 mmol) and the mixture was stirred overnight at 50° C. The solution was evaporated at a reduced pressure until free of acetonitrile. The residue was partitioned between ether (100 m]L) and water (100 mL). The ether layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated at reduced pressure to give an oil which was dried at 60° C. in vacuo to remove all traces of fluoronitrobenzene. MS: M++1=267.1 Da.

reactant | sarcosine t-butyl ester•hydrochloride | 55.5 mmol, 10.1 g | C(C)(C)(C)OC(CNC)=O.Cl
reactant | triethylamine | 65 mmol, 6.57 g | C(C)N(CC)CC | C6H15N
reactant | 2-fluoronitrobenzene | 40 mmol, 5.66 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | [Methyl-(2-nitrophenyl)-amino]acetic acid tert-butylester | C(C)(C)(C)OC(CN(C1=C(C=CC=C1)[N+](=O)[O-])C)=O | C13H18N2O4
